US05360802
Step 2: 3(R,S)-Amino-5-cyclopentyl-1,3-dihydro-1-methyl-2H-1,4-benzodiazepin-2-one
To 5-cyclopentyl-1,3-dihydro-1-methyl-3(R,S)-[(benzyloxycarbonyl)amino]-2H-1,4-benzodiazepin-2-one (475 mg, 1.2 mmol) was added 45% hydrobromic acid in acetic acid (1 ml) and the mixture stirred at room temperature for 2 h. Anhydrous diethyl ether (50 ml) was added and the resultant cream coloured suspension stirred at 0° C. for 1 h. On settling, the solvent was decanted off, and the solid triturated in anhydrous diethyl ether. The resultant solid was collected by filtration and washed with more diethyl ether. The solid was partitioned between 10% Na2CO3 solution (25 ml) and ethyl acetate (20 ml), the aqueous layer was further extracted with ethyl acetate (4×10 ml) and the organic extracts combined, dried (MgSO4), and evaporated to give the title compound (247 mg, 79%) as a colourless off.

reactant | 5-cyclopentyl-1,3-dihydro-1-methyl-3(R,S)-[(benzyloxycarbonyl)amino]-2H-1,4-benzodiazepin-2-one | 1.2 mmol, 475 mg | C1(CCCC1)C1=NC(C(N(C2=C1C=CC=C2)C)=O)NC(=O)OCC2=CC=CC=C2 | C23H25N3O3
reactant | hydrobromic acid | Br | BrH
reactant | diethyl ether | 50 ml | C(C)OCC | C4H10O
solvent | acetic acid | 1 ml | C(C)(=O)O | C2H4O2
product | 3(R,S)-Amino-5-cyclopentyl-1,3-dihydro-1-methyl-2H-1,4-benzodiazepin-2-one | 247 mg, 79% | NC1C(N(C2=C(C(=N1)C1CCCC1)C=CC=C2)C)=O | C15H19N3O
